US09290485B2
c) Ethyl 1-((1-methyl-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylate
To a stirred, cooled (0° C.) solution of (1-methyl-1,2,3,4-tetrahydroquinolin-7-yl)methanol (200 mg, 0.733 mmol), ethyl 1H-pyrazole-4-carboxylate (103 mg, 0.733 mmol) and triphenylphosphine (289 mg, 1.100 mmol) in THF (10 ml) was added dropwise a 40% solution of DEAD in toluene (0.435 ml, 1.1 mmol). The reaction mixture was stirred for 2 h at 0° C., then over night at 20° C. Saturated aqueous NaHCO3 was added and the mixture was extracted with AcOEt. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound. The crude product was purified by preparative HPLC (Waters SunFire Prep C18 OBD 5 μm 30*100, Flow 40 mL/min, ACN: 2 min at 5%, then to 100% within 17.5 min, RT 10.00 min) to give the title compound. HPLC (Method H) Rt=2.919 min; MS (Method A) [M+H]+=300.0

reactant | (1-methyl-1,2,3,4-tetrahydroquinolin-7-yl)methanol | 0.733 mmol, 200 mg | CN1CCCC2=CC=C(C=C12)CO | C11H15NO
reactant | ethyl 1H-pyrazole-4-carboxylate | 0.733 mmol, 103 mg | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | triphenylphosphine | 1.100 mmol, 289 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | toluene | 1.1 mmol, 0.435 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Ethyl 1-((1-methyl-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylate | CN1CCCC2=CC=C(C=C12)CN1N=CC(=C1)C(=O)OCC | C17H21N3O2
